US05153195
f) 7,8,9,10-Tetrahydro-4-hydroxy-6-sulfamoylbenzo[f]quinoxaline-2,3(1H,4H)-dione
A suspension of 6-ethoxalylaminosulfonyl-7,8,9,10-tetrahydro-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione (0.20 g, 0.5 mmol) in 7 ml of conc. hydrochloric acid was heated to reflux with stirring for 1.5 h. The mixture was cooled to 0° C. and filtered. The isolated product was washed with water and dried to give 0.14 g (66%) of the title compound.

reactant | 6-ethoxalylaminosulfonyl-7,8,9,10-tetrahydro-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione | 0.5 mmol, 0.20 g | C(=O)(C(=O)OCC)NS(=O)(=O)C=1C2=C(C=3NC(C(N(C3C1)O)=O)=O)CCCC2 | C16H17N3O8S
solvent | hydrochloric acid | 7 ml | Cl | ClH
product | 7,8,9,10-Tetrahydro-4-hydroxy-6-sulfamoylbenzo[f]quinoxaline-2,3(1H,4H)-dione | 0.14 g, 66% | ON1C(C(NC=2C3=C(C(=CC12)S(N)(=O)=O)CCCC3)=O)=O | C12H13N3O5S
